US05527819
Step A: 2-Carboethoxy-5-chloro-1-phenylsulfonylindole-3-methyl(phenyl)sulfonamide
In the manner outlined in Example 68, Step B, N-methylaniline was added to 2-carboethoxy-5-chloro-1-phenylsulfonylindole-3-sulfonylchloride to give, after flash column chromatography on silica (dry loaded, eluting with an ethyl acetate/hexanes gradient, 10-30% ethyl acetate) the title compound as colorless crystals (from dichloromethane/hexanes);

reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
reactant | 2-carboethoxy-5-chloro-1-phenylsulfonylindole-3-sulfonylchloride | C(=O)(OCC)C=1N(C2=CC=C(C=C2C1S(=O)(=O)Cl)Cl)S(=O)(=O)C1=CC=CC=C1 | C17H13Cl2NO6S2
product | 2-Carboethoxy-5-chloro-1-phenylsulfonylindole 3-methyl(phenyl)sulfonamide | C(=O)(OCC)C=1N(C2=CC=C(C=C2C1)Cl)S(=O)(=O)C1=CC=CC=C1.CC=1C=C(C=CC1)S(=O)(=O)N | InChI=1S/C17H14ClNO4S.C7H9NO2S/c1-2-23-17(20)16-11-12-10-13(18)8-9-15(12)19(16)24(21,22)14-6-4-3-5-7-14;1-6-3-2-4-7(5-6)11(8,9)10/h3-11H,2H2,1H3;2-5H,1H3,(H2,8,9,10)
